US09029545B2
Ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate
A mixture of ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate (Description 72) (402 mg, 0.82 mmol), 1-tert-butoxylcarbonyl-1H-pyrazole-4-boronic acid, pinacol ester (483 mg, 1.64 mmol) and tetrakis(triphenylphosphine)palladium(0) (47.4 mg, 0.041 mmol) and potassium carbonate (340 mg, 2.46 mmol) in 1,4-dioxane (3 mL), DMF (1.5 mL) and water (0.75 mL) was heated at 110° C. for ca. 2 h. After cooling to RT, the reaction mixture was filtered through celite and the filtrate was concentrated. Purification by chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in DCM, afforded the title compound (355 mg). LCMS (A) m/z: 477 [M+1]+, Rt 1.18 min (acidic).

reactant | ethyl 2-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methylthieno[2,3-b]pyridine-5-carboxylate | 0.82 mmol, 402 mg | BrC1=CC=2C(=NC(=C(C2NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C)S1 | C17H14BrClN2O4S2
reactant | 1-tert-butoxylcarbonyl-1H-pyrazole-4-boronic acid | O(C(C)(C)C)C(=O)N1N=CC(=C1)B(O)O | C8H13BN2O4
reactant | potassium carbonate | 2.46 mmol, 340 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 0.75 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.041 mmol, 47.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 355 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2)C=2C=NNC2 | C20H17ClN4O4S2
